US06831080B2
Preparation of (±)-7-(1-aminoethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester
A suspension of 1,2,3,4-tetrahydro-7-[1-(hydroxyimino)ethyl]-isoquinoline-2-carboxylic acid, methyl ester, Preparation 9 (9.9 g, 40 mmol) and Raney nickel (1 mL) in methanol (50 mL) and ammonium hydroxide (15 mL) was hydrogenated (H2, 50 psi) for 3 days. The reaction mixture was then filtered and the resultant filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica using a gradient system of solvents: ethyl acetate (100%) to ammonium hydroxide/methanol (30%). The product was obtained as an oil (6.55 g, 70%).

reactant | 1,2,3,4-tetrahydro-7-[1-(hydroxyimino)ethyl]-isoquinoline-2-carboxylic acid, methyl ester | ON=C(C)C1=CC=C2CCN(CC2=C1)C(=O)OC | C13H16N2O3
catalyst | Raney nickel | 1 mL | [Ni] | Ni
solvent | methanol | 50 mL | CO | CH4O
solvent | ammonium hydroxide | 15 mL | [OH-].[NH4+]
product | (±)-7-(1-aminoethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester | 6.55 g, 70% | COC(=O)N1CC2=CC(=CC=C2CC1)C(C)N | C13H18N2O2
